US04987132
Dicyclohexylcarbodiimide (1.58 g) was added to an ice-cooled solution of 2.0 g of N-carbobenzyloxyserine, 1.57 g of 1-(3-phenylpropyl)piperazine and 1.04 g of 1-hydroxybenzotiazole in 30 ml of N,N-dimethylformamide. The mixture was stirred at room temperature for 24 hours, then diluted with ethyl acetate, washed in sequence with two portions of 4% aqueous sodium hydrogen carbonate, one portion of water and one portion of saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2.39 g of 1-[2-(benzyloxycarbonylamino)-3-hydroxypropionyl]-4-(3-phenylpropyl}piperazine. Melting point 95°-97° C.

reactant | Dicyclohexylcarbodiimide | 1.58 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-carbobenzyloxyserine | 2.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | 1-(3-phenylpropyl)piperazine | 1.57 g | C1(=CC=CC=C1)CCCN1CCNCC1 | C13H20N2
reactant | 1-hydroxybenzotiazole | 1.04 g | OS1C=NC2=C1C=CC=C2 | C7H7NOS
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(benzyloxycarbonylamino)-3-hydroxypropionyl]-4-(3-phenylpropyl}piperazine | 2.39 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)N1CCN(CC1)CCCC1=CC=CC=C1)CO | C24H31N3O4
